US08084448B2
G. 4-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-butane-1-sulfinic Acid
A mixture of 5-[2-benzyloxy-4-(4-phenylmethanesulfonylbutyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (450 mg), 10% Pd/C (400 mg) and KHCO3 (1.6 mL of 0.52M) in EtOH (1 mL)/water (10 mL) is hydrogenated at 1 atm for 2 h. The catalyst is filtered and the filtrate evaporated. The residue is treated with 1N HCl and extracted with EtOAc. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure to give the title compound: (M−1)−=347 1H NMR (400 MHz, DMSO-D6) δ ppm 1.38-1.48 (m, 2 H) 1.49-1.58 (m, J=7.67, 7.67, 7.52, 7.20 Hz, 3 H) 1.79-1.85 (m, 2 H) 2.43 (t, J=7.45 Hz, 2 H) 4.01 (s, 2 H) 6.56 (dd, J=8.08, 1.77 Hz, 1 H) 6.67 (d, J=1.77 Hz, 1 H) 7.25 (d, J=8.08 Hz, 1 H)

reactant | 5-[2-benzyloxy-4-(4-phenylmethanesulfonylbutyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 450 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CCCCS(=O)(=O)CC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C26H28N2O6S2
reactant | water | 10 mL | O | H2O
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 4-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-butane-1-sulfinic Acid | OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCCCS(=O)O | C12H16N2O6S2
